US06667316B1
To a stirred solution of 3-[4-(2-chloroacetylamino)-1,3-dioxoisoindolin-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide (1.1 g, 2.3 mmol) in acetonitrile (15 mL) was added dimethylamine in tetrahydrofuran (3.3 mL, 2 N, 6.6 mmol) at room temperature and kept for overnight. The solvent was removed in vacuo to give a solid. The solid was diluted with methylene chloride (50 mL) and sodium hydrogen carbonate (25 mL). The separated organic layer was dried over magnesium sulfate. The solvent was removed in vacuo to give a solid. The solid was purified with chromatography to give 3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-meth-oxyphenyl)-N,N-dimethylpropanamide as a white solid (640 mg, 57% yield). To a stirred solution of 3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide in ethyl acetate (4 mL) was added hydrogen chloride in ether (2 mL, 1N, 2 mmol) at room temperature. The resulting suspension was filtered and washed ethyl acetate to give 3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide hydrogen chloride as a white solid (580 mg, 84% yield): mp, 92-94° C.; 1H NMR (DMSO-d6) δ1.30 (t, J=6.9 Hz, 3H, CH3), 2.75 (s, 3H, CH3), 2.87 (s, 6H, 2CH3), 2.98 (s, 3H, CH3), 3.21 (dd, J=5.7, 16.6 Hz, 1H, CHH), 3.61 (dd, J=9.3, 16.5 Hz, 1H, CHH), 3.72 (s, 3H, CH3), 3.98 (q, J=6.9 Hz, 2H, CH2), 4.26 (s, 2H, CH2), 5.62 (dd, J=5.6, 9.1 Hz, 1H, NCH), 6.90-6.91 (m, 2H, Ar), 7.01 (s, 1H, Ar), 7.65 (d, J=7.2 Hz, 1H, Ar), 7.85 (t, J=7.7 Hz, 1H, Ar), 8.21(d, J=8.2 Hz, 1H, Ar), 10.25 (brs, 1H, HCl), 10.56 (s, 1H, NH); 13C NMR (DMSO-d6) δ14.72, 26.37, 34.41, 34.81, 36.59, 43.34, 50.43, 55.52, 58.02, 63.78, 11.79, 112.38, 119.52, 127.79, 131.88, 131.94, 134.19, 135.79, 147.76, 148.47, 164.52, 167.25, 167.40, 169.16; Anal Calcd for C26H32N4O6+HCl+0.48 H2O: C, 57.65; H, 6.32; N, 10.34; Cl, 6.55; H2O, 1.60. Found: C, 57.70; H, 6.28; N, 10.28, Cl, 6.81; H2O, 1.61.

reactant | 3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide | CN(CC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC)=O)C | C26H32N4O6
reactant | hydrogen chloride | Cl | ClH
reactant | ether | 2 mmol, 1N, 2 mL | CCOCC | C4H10O
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | 3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide hydrogen chloride | 580 mg, 84% yield | Cl.CN(CC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC)=O)C | InChI=1S/C26H32N4O6.ClH/c1-7-36-21-13-16(11-12-20(21)35-6)19(14-23(32)29(4)5)30-25(33)17-9-8-10-18(24(17)26(30)34)27-22(31)15-28(2)3;/h8-13,19H,7,14-15H2,1-6H3,(H,27,31);1H
